US04349685
5-[(Carbethoxymethyl)carbamoyloxy]-1,3-benzoxathiol-2-one
5-hydroxy-1,3-benzoxathiol-2-one (14.0 grams), was mixed with ethyl isocyanatoacetate (11.9 grams) and 0.84 gram of triethylamine in 165 milliliters of methyl ethyl ketone. The resulting mixture was then heated at reflux temperature for one hour and ten minutes and was allowed to cool and stand at ambient temperature for 15 hours. The solvent was then removed by evaporation in vacuo. The white, solid residue was recrystallized from a solution of 2% ethyl acetate in carbon tetrachloride. The resulting white crystalline solid had a melting point of 94.5°-96.5° C. This product was then recrystallized from a mixture of ethyl acetate and methylcyclohexane to give the desired purified product, 5-[(carbethoxymethyl)-carbamoyloxy]-1,3-benzoxathiol-2-one as colorless crystals having a melting point of 97.5°-98.5° C. Elemental analysis calculated for C12H11NO6S (percent): carbon--48.48; hydrogen--3.73; nitrogen--4.71. Found: carbon--48.6; hydrogen--3.84; nitrogen--4.80.

reactant | 5-hydroxy-1,3-benzoxathiol-2-one | 14.0 grams | OC=1C=CC2=C(SC(O2)=O)C1 | C7H4O3S
reactant | ethyl isocyanatoacetate | 11.9 grams | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | triethylamine | 0.84 gram | C(C)N(CC)CC | C6H15N
solvent | methyl ethyl ketone | 165 milliliters | C(C)C(=O)C | C4H8O
product | 5-[(Carbethoxymethyl)carbamoyloxy]-1,3-benzoxathiol-2-one | C(=O)(OCC)CNC(=O)OC=1C=CC2=C(SC(O2)=O)C1 | C12H11NO6S
